US04894386
Methyl E-4-[6-(2-carboxyprop-1-enyl)-3-propylindol-1-ylmethyl]-3-methoxybenzoate (1.15 g) with palladium on carbon (10% w/w, 0.2 g) in dry tetrahydrofuran (50 ml) was hydrogenated at 2.0 bar. The mixture was filtered through a pad of diatomaceous earth and evaporated to give methyl 4-[6-(2-carboxypropyl)-3-propylindol-1-ylmethyl]-3-methoxybenzoate (1.12 g, 97%) as an oil; partial NMR (300 MHz, DMSO-d6): 0.93(t, 3H, CH2CH3), 0.98(d, 3H, CH(CH3)), 1.63(m, 2H, CH2CH3), 2.60(m, 4H, CH2CH2CH3, CHCH2), 2.96(m, 1H, CH(CH3)), 3.82(s, 3H, OCH3), 3.95(s, 3H, OCH3), 5.31(s, 2H, NCH2).

reactant | Methyl E-4-[6-(2-carboxyprop-1-enyl)-3-propylindol-1-ylmethyl]-3-methoxybenzoate | 1.15 g | C(=O)(O)/C(=C/C1=CC=C2C(=CN(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC)CCC)/C | C25H27NO5
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | methyl 4-[6-(2-carboxypropyl)-3-propylindol-1-ylmethyl]-3-methoxybenzoate | 1.12 g, 97% | C(=O)(O)C(CC1=CC=C2C(=CN(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC)CCC)C | C25H29NO5
